US07091346B1
A mixture comprising 1 g (3.3 mmol) of 2-chloro-6-(4-fluoro-phenyl-amino)-purine, 2.1 g (6.6 mmol) of caesium carbonate and 2 ml of isopropyl iodide is stirred in 32 ml of a mixture comprising dioxane, water and DMF in a ratio of 2:3:7 at 100° C. for 20 h. Thereafter, the reaction mixture is diluted with ethyl acetate and the organic phase is washed with water. After drying over sodium sulfate and removal of the solvent, the residue is chromatographed over silica gel (mobile phase: ethyl acetate:hexane=4:1). On concentration, 2-chloro-9-isopropyl-6-(4-fluoro-phenyl-amino)-9H-purine is obtained as a crystalline compound. m.p. 154° C.; FAB-MS: (M+H)+=306; Rf=0.2 (ethyl acetate:hexane=4:1).

reactant | 2-chloro-6-(4-fluoro-phenyl-amino)-purine | 3.3 mmol, 1 g | ClC1=NC(=C2NC=NC2=N1)NC1=CC=C(C=C1)F | C11H7ClFN5
reactant | caesium carbonate | 6.6 mmol, 2.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | isopropyl iodide | 2 ml | C(C)(C)I | C3H7I
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-chloro-9-isopropyl-6-(4-fluoro-phenyl-amino)-9H-purine | ClC1=NC(=C2N=CN(C2=N1)C(C)C)NC1=CC=C(C=C1)F | C14H13ClFN5
